US06825194B2
(b) (9S)-9-ethyl-9-hydroxy-2-hydroxymethyl-1-pentyl-1H,12H-pyrano[3″,4″:6′,7′]-indolizino[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-10,13(9H,15H)-dione
To a solution of (9S)-9-acetoxy-2-acetoxymethyl-9-ethyl-1-pentyl-1H, 12H-pyrano[3″,4″:6′7′]indolizino[1′2′:6,5]pyrido[4,3,2-de]quinazoline-10,13(9H,15H)-dione (34 mg, 0.059 mmol) in methanol (3 ml) cooled in an ice-bath was added anhydrous hydrazine (100 μl) and the mixture was stirred for 2 hr. at room temperature. Aqueous 1 N hydrochloric acid solution (5 ml) was added dropwise to acidify the reaction mixture, and the mixture was stirred for 1 hr. at room temperature. The mixture was extracted with dichloromethane (50 ml) and the dichloromethane layer was washed with brine, dried over MgSO4 and evaporated. The residue was purified by column chromatography (dichloromethane/methanol=25/1) to give pure product (19 mg, 65%).

reactant | (9S)-9-acetoxy-2-acetoxymethyl-9-ethyl-1-pentyl-1H, 12H-pyrano[3″,4″:6′7′]indolizino[1′2′:6,5]pyrido[4,3,2-de]quinazoline-10,13(9H,15H)-dione | 0.059 mmol, 34 mg | C(C)(=O)O[C@@]1(C(OCC=2C(N3CC=4C(=NC=5C=6C4N(C(=NC6C=CC5)COC(C)=O)CCCCC)C3=CC21)=O)=O)CC | C31H32N4O7
reactant | hydrazine | 100 μl | NN | H4N2
reactant | hydrochloric acid | 1 N, 5 ml | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | (9S)-9-ethyl-9-hydroxy-2-hydroxymethyl-1-pentyl-1H,12H-pyrano[3″,4″:6′,7′]-indolizino[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-10,13(9H,15H)-dione | 19 mg, 65% | C(C)[C@]1(C(OCC=2C(N3CC=4C(=NC=5C=6C4N(C(=NC6C=CC5)CO)CCCCC)C3=CC21)=O)=O)O | C27H28N4O5
